datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:82][C:61]([CH-:10][P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62].N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>CC[O:82][C:61]([CH:10]([CH:20]1[C:21](C#N)=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:62] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[O:72][C:61](=[O:62])[N-:10]1.CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:50][C:22](=[CH:21][CH:20]([N:10]1CC[O:72][C:61]1=[O:62])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C3=C(C=CC=C3)[O:62]2)S1.[F:20][N+:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1>>CC1=CC=[C:10]([F:20])S1.FC(F)(F)C1=CC=C([B-:11]2=[O+:12]C3=C(C=CC=C3)[O:62]2)C=C1.[N:21]1=[CH:32][CH:33]=[CH:34][CH:43]=[CH:42]1 10,11=10,20;12=11,12;20,21=21"
"C/[C:10](=[C:11]1/[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)[C:71]#[N:72].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([C:10](C)([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/C.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C)[CH+:11]C)[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)C[C:11](C)=[CH2:10].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11](C)CC(C)(C)C)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;20,21=21,22;22,23=23"
CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:10]1CCCCC1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2(C)CCCCC2)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>C[N:23]1[C:22]2=[C:21](C=CC=C2)[CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[C:31]2=[C:32]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1.C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1.C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11]([CH2:10][F:20])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21"
"CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10].CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32]>>CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C.CC[O:33][C:31]([CH:20]([H:10])[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1C[C:20](=[O:21])C1.CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O:10][C:20]2([O-:21])CCC2)[CH:72]=[CH:73]1 10=20;20,21=21"
CC[O:72][C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([C:20]1([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)[C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62] 10=20
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.C[O:64][C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1>>C[N-:21]C1=CC=CC=C1.C[O:64][C:63]1=[CH:62][CH:61]=[N+:10]([S:20]C(F)(F)F)[CH:71]=[CH:72]1 10=20;20,21=21"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.C[C:63]([O:62][B-:11]([H:10])([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64]>>C1=CC=C(C[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]CC2=CC=CC=C2)[O-:23])C=C1.C[C:63]([O:62][B:11]([O:72][C:73](C)=[O:74])[O:82][C:83](C)=[O:84])=[O:64] 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1.CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1>>CC1=CC=[C:10]([CH:20](C2=CC=C(N(C)C)C=C2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])O1.C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2 10,11=10,20;20,21=21"
